US06500835B2
Synthesis of 3-[(3-carboxymethylaminophenyl)sulfonyl]-7-chloro-2,4(1H,3H)-quinazolinedione (Compound 11)
1.62 g (5.65 mmol) of 3-t-butoxycarbonylmethylaminobenzenesulfonamide and 1.73 g (5.65 mmol) of methyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 7 to obtain 209 mg (yield 9%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 3.86 (2H, s), 6.88 (1H, s), 7.12 (1H, s), 7.24 (1H, d), 7.30-7.38 (3H, m), 7.86 (1H, d), 11.61 (1H, br).

reactant | 3-t-butoxycarbonylmethylaminobenzenesulfonamide | 5.65 mmol, 1.62 g | C(C)(C)(C)OC(=O)CNC=1C=C(C=CC1)S(=O)(=O)N | C12H18N2O4S
reactant | methyl 4-chloro-2-N-phenoxycarbonylanthranilate | 5.65 mmol, 1.73 g | ClC=1C=C(C(C(=O)OC)=CC1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
product | 3-[(3-carboxymethylaminophenyl)sulfonyl]-7-chloro-2,4(1H,3H)-quinazolinedione | yield 9% | C(=O)(O)CNC=1C=C(C=CC1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C16H12ClN3O6S
